US06281356B1
An oven dried flask was flushed with argon and charged with 18-crown-6 (15 g, 56.7 mmol), 6-iodo-1-methyl-1H-indole (10.4 g, 40.46 mmol), morpholine (4.3 mL, 48.6 mmol), sodium t-butoxide (5.42 g, 54.7 mmol), tris(dibenzylidene acetone)dipalladium (0) (186 mg, 0.20 mmol) and 2,2′-bis(diphenylphosphino)-1,1-binaphthyl) (380 mg, 0.61 mmol). The flask was flushed with argon for 10 min and dry THF (80 mL) was added. The mixture was stilled at room temperature for 5 h, then diluted with ether and washed with brine. The organic layer was dried (MgSO4), evaporated and the crude product was purified by chromatography on silica gel using 5-30% ether/hexanes to give 1-methyl-6-morpholin-4-yl-1H-indole (8.17 g, 94%). [Ref: Wolfe, J. P.; Buchwald, S. L. J. Org. Chem. 1997, 62, 6066.]

reactant | 18-crown-6 | 56.7 mmol, 15 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 6-iodo-1-methyl-1H-indole | 40.46 mmol, 10.4 g | IC1=CC=C2C=CN(C2=C1)C | C9H8IN
reactant | morpholine | 48.6 mmol, 4.3 mL | N1CCOCC1 | C4H9NO
reactant | sodium t-butoxide | 54.7 mmol, 5.42 g | CC(C)([O-])C.[Na+]
reactant | 2,2′-bis(diphenylphosphino)-1,1-binaphthyl | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
catalyst | tris(dibenzylidene acetone)dipalladium (0) | 0.20 mmol, 186 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-methyl-6-morpholin-4-yl-1H-indole | 8.17 g, 94% | CN1C=CC2=CC=C(C=C12)N1CCOCC1 | C13H16N2O
